US08802713B2
2.0 g of 5-amino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole was dissolved in 50 mL of acetonitrile, and 0.8g of N-bromosuccinimide was added under cooling with ice. After stirring for 10minutes under cooling with ice, the solvent was distilled off under reduced pressure, extraction with ethyl acetate was carried out, and the organic layer was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 2.0 g of 5-amino-4-bromo 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole.

reactant | 5-amino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 2.0 g | NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OCC(C(F)(F)F)(F)F | C15H12F9N3OS
reactant | N-bromosuccinimide | 0.8g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-amino-4-bromo 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 2.0 g | NC1=C(C(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OCC(C(F)(F)F)(F)F)Br | C15H11BrF9N3OS
